US07307094B2
A 100-mL single-neck round bottomed flask equipped with a magnetic stirrer and reflux condenser was charged with methyl 4-chloro-3-nitrosalicylate (1.00 g, 4.32 mmol), glacial acetic acid (23 mL) and methanol (18 mL). The stirred solution was then treated with 325 mesh iron powder (2.41 g, 43.2 mmol) and heated at reflux for 30 min. After this time, the reaction was cooled to room temperature and filtered through a pad of celite 521. The pad was rinsed with methanol (10 mL) and the filtrates combined and partitioned between ethyl acetate (100 mL) and saturated aqueous sodium bicarbonate (50 mL). The organic layer was separated and washed with water (2×100 mL) then dried over sodium sulfate. The suspension was filtered and the filtrate treated with decolorizing carbon (0.50 g) and warmed to reflux. The suspension was then re-filtered hot through a pad of celite 521 and the resulting filtrate concentrated to dryness under reduced pressure to afford methyl 3-amino-4-chlorosalicylate in 81% yield (0.70 g) as white solid: 1H NMR (300 MHz, CDCl3) δ 7.19 (d, J=2.7 Hz, 1H), 6.82 (d, J=2.1 Hz, 1H), 3.95 (br s, 2H), 3.94 (s, 3H); MS (ESI) m/z 202 [M+H]+.

reactant | methyl 4-chloro-3-nitrosalicylate | 4.32 mmol, 1.00 g | ClC=1C(=C(C(C(=O)OC)=CC1)O)[N+](=O)[O-] | C8H6ClNO5
reactant | acetic acid | 23 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 43.2 mmol, 2.41 g | [Fe] | Fe
solvent | methanol | 18 mL | CO | CH4O
product | methyl 3-amino-4-chlorosalicylate | 81% yield | NC1=C(C(C(=O)OC)=CC=C1Cl)O | C8H8ClNO3
